US06184242B2
To a solution of cyclopentanol (8.75 ml, 95.8 mmol) in N,N-dimethylformamide (250 mL) was added sodium hydride (60% dispersion in mineral oil, 3.84 g, 95.8 mmol) at 0-5° C. under nitrogen. After 10 minutes, the mixture was allowed to reach room temperature and stirred for 40 minutes. 3-Bromothiophene (3.59 mL, 38.3 mmol) was added followed by cuprous iodide (14.63 g, 76.8 mmol). The mixture was heated at 120 IC for 22 hours. After cooling to about 10° C., a solution of sodium cyanide (12.1 g, 0.25 mol) in water (200 mL) was added under vigorous stirring. The mixture was stirred for additional 10 minutes then filtered. The filtrate was extracted with hexane. The extract was washed with water, dried (Na2SO4) and concentrated to dryness. Distillation (100° C., 8 mm Hg) gave 3-cyclopentyloxythiopene (4.52 g, 70%) as a slightly pale yellow oil; 1H NMR (300 Mz, CDCl3) δ 7.15 (dd, J =5.2, 3.1 Hz, 1H), 6.72 (dd, J=5.2, 15 Hz, 1H) 6.19 (dd, J=3.1, 1.5 Hz, 1H), 4.65 (quintet, J=4.2 Hz, 1H), 1.55-1.95 (m, 8H). MS m/e (%): 168 (M+; 17).

reactant | cyclopentanol | 95.8 mmol, 8.75 ml | C1(CCCC1)O | C5H10O
reactant | sodium hydride | 95.8 mmol, 3.84 g | [H-].[Na+]
reactant | 3-Bromothiophene | 38.3 mmol, 3.59 mL | BrC1=CSC=C1 | C4H3BrS
reactant | sodium cyanide | 0.25 mol, 12.1 g | [C-]#N.[Na+]
solvent | N,N-dimethylformamide | 250 mL | CN(C=O)C | C3H7NO
solvent | water | 200 mL | O | H2O
product | 3-cyclopentyloxythiopene | 4.52 g, 70% | C1(CCCC1)OC1=CSC=C1 | C9H12OS
